US04329347
6-[3-(3,4-Dichlorophenyl-sulfinyl)-2-hydroxy-propoxy]-3,4-dihydro-carbostyril
The 6-[3-(3,4-dichlorophenyl-mercapto)-2-hydroxy-propoxy]-3,4-dihydro-carbostyril thus obtained, was oxidized analogous to Example 123 with hydrogen peroxide.

reactant | 6-[3-(3,4-dichlorophenyl-mercapto)-2-hydroxy-propoxy]-3,4-dihydro-carbostyril | ClC=1C=C(C=CC1Cl)SCC(COC=1C=C2CCC(NC2=CC1)=O)O | C18H17Cl2NO3S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[3-(3,4-Dichlorophenyl-sulfinyl)-2-hydroxy-propoxy]-3,4-dihydro-carbostyril | ClC=1C=C(C=CC1Cl)S(=O)CC(COC=1C=C2CCC(NC2=CC1)=O)O | C18H17Cl2NO4S
